US07238716B2
To a mixture of [2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]methanol (1.50 g), triethylamine (0.75 g) and ethyl acetate (150 mL) was dropwise added methanesulfonyl chloride (0.85 g) at room temperature and the mixture was stirred at room temperature for 15 hrs. The reaction mixture was washed successively with water, saturated aqueous sodium hydrogencarbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give an oil. A mixture of this oil, sodium cyanide (0.72 g), benzyltributylammonium chloride (0.59 g), acetonitrile (20 mL) and water (10 ml) was stirred at room temperature for 15 hrs. The reaction mixture was concentrated, and ethyl acetate was added to the residue. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals (0.55 g, 36%) of 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetonitrile from a fraction eluted with ethyl acetate-hexane (1:4, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 149-150° C.

reactant | [2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]methanol | 1.50 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2CO)C=C1 | C24H22N2O4
reactant | triethylamine | 0.75 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.85 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium cyanide | 0.72 g | [C-]#N.[Na+]
catalyst | benzyltributylammonium chloride | 0.59 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | water | 10 ml | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetonitrile | 0.55 g, 36% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2CC#N)C=C1 | C25H21N3O3
